US07645776B2
(R)-5-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-nicotinonitrile
0.15 mmol of 5-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-nicotinamide are treated with trifluoracetic anhydride at room temperature over night. The reaction was quenched with aqueous NaHCO3 and product extracted with ethylacetate twice. The organic layers were washed with water/NaCl, combined, dried over Na2SO4 and the solvent evaporated. The product was purified via preparative HPLC.

reactant | 5-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-nicotinamide | 0.15 mmol | O(C1=CC=CC=C1)CC(=O)N1C(CCCC1)C1=NC(=NO1)C=1C=NC=C(C(=O)N)C1 | C21H21N5O4
reactant | trifluoracetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | (R)-5-{5-[1-(2-Phenoxy-acetyl)-piperidin-2-yl]-[1,2,4]oxadiazol-3-yl}-nicotinonitrile | O(C1=CC=CC=C1)CC(=O)N1[C@H](CCCC1)C1=NC(=NO1)C=1C=NC=C(C#N)C1 | C21H19N5O3
